US09290467B2
A) (S)-2-tert-Butoxycarbonylamino-3-(3-chloro-4-hydroxy-phenyl)-propionic acid methyl ester
In a 10 mL round-bottomed flask, (S)-2-(tert-butoxycarbonylamino)-3-(3-chloro-4-hydroxyphenyl)propanoate dicyclohexylammonium salt (300 mg, 604 μmol, Eq: 1.00) was combined with dry THF (2 mL) to give a white suspension. LiOH hydrate (38.4 mg, 905 μmol, Eq: 1.50) was added and the mixture was stirred for 30 min at 25° C. Then Me2SO4 (80.1 mg, 60.7 μL, 604 μmol, Eq: 1.00) was added. The reaction mixture was heated to 80° C. and stirred for 2 h. After that the mixture was stirred for 18 h at 50° C. The crude reaction mixture was concentrated in vacuo. The reaction mixture was poured into saturated aqueous NaHCO3 solution and extracted with AcOEt (2×). The organic layers were combined and washed with brine (1×). The organic layers were dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 20 g, n-heptane/AcOEt 4/1, 3/1) to yield a colorless oil (132 mg; 66%). m/z=330.2 [M+H]+; 274.1 [M+H-tBu]+; 230.2 [M+H-Boc]+.

reactant | (S)-2-(tert-butoxycarbonylamino)-3-(3-chloro-4-hydroxyphenyl)propanoate dicyclohexylammonium salt | 604 μmol, 300 mg | C1(CCCCC1)[NH2+]C1CCCCC1.C(C)(C)(C)OC(=O)N[C@H](C(=O)[O-])CC1=CC(=C(C=C1)O)Cl
reactant | LiOH hydrate | 905 μmol, 38.4 mg | O[Li].O
reactant | Me2SO4 | 604 μmol, 60.7 μL, 80.1 mg | COS(=O)(=O)OC | C2H6O4S
reactant | H-tBu | C(C)(C)C | C4H10
reactant | H-Boc | C(=O)OC(C)(C)C | C5H10O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-2-tert-Butoxycarbonylamino-3-(3-chloro-4-hydroxy-phenyl)-propionic acid methyl ester | COC([C@H](CC1=CC(=C(C=C1)O)Cl)NC(=O)OC(C)(C)C)=O | C15H20ClNO5
